US06930109B2
(6R)-6-(tert-Butyl-dimethyl-silanyloxymethyl)-2-hydroxy-3,4,7,8-tetrahydro-2H,6H-5-oxa-1-aza-phenanthrene-1-carboxylic acid tert-butyl ester
To a solution of (2R)-[8-but-3-enyl-2-(tert-butyl-dimethyl-silanyloxymethyl)-chroman-7-yl]-carbamic acid tert-butyl ester (3.6 g, 8.0 mmole) in tetrahydrofuran (150 mL) and water (15 mL) at 0° C. was added osmium tetroxide (0.4 mL, 5% in water), followed by sodium periodate (5.16 g, 24 mmole). The mixture was stirred for 6 hours. The solution was diluted with ethyl acetate and the organic layer was washed with water, dried over sodium sulfate, filtered, and the solvent evaporated in vacuum. Column chromatography on silica gel (10% ethyl acetate/hexane) afforded 2.92 g (81%) of the title compound as an oil, [α]25D=−36.75° (4.9, THF).

reactant | (2R)-[8-but-3-enyl-2-(tert-butyl-dimethyl-silanyloxymethyl)-chroman-7-yl]-carbamic acid tert-butyl ester | 8.0 mmole, 3.6 g | C(C)(C)(C)OC(NC1=CC=C2CC[C@@H](OC2=C1CCC=C)C(O[SiH2]C(C)(C)C)(C)C)=O | C25H41NO4Si
reactant | sodium periodate | 24 mmole, 5.16 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | osmium tetroxide | 0.4 mL | [Os](=O)(=O)(=O)=O
product | (6R)-6-(tert-Butyl-dimethyl-silanyloxymethyl)-2-hydroxy-3,4,7,8-tetrahydro-2H,6H-5-oxa-1-aza-phenanthrene-1-carboxylic acid tert-butyl ester | 2.92 g, 81% | C(C)(C)(C)OC(=O)N1C(CCC2=C3O[C@H](CCC3=CC=C12)C(O[SiH2]C(C)(C)C)(C)C)O | C24H39NO5Si
